US07262185B2
To a solution of aluminum lithium hydride (1.43 g) in THF (126 ml) was added a solution of methyl 2-methoxynicotinate (6.3 g) in THF (63 ml) at 0° C. The mixture was stirred at room temperature for 2 hours, and water (6.3 ml), 15% aqueous solution of sodium hydroxide (6.3 ml) and water (18.9 ml) were sequentially added to the solution at 0° C. The mixture was filtered with Celite, and washed with methanol. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give (2-methoxy-3-pyridinyl)methanol (5.0 g).

reactant | aluminum lithium hydride | 1.43 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | methyl 2-methoxynicotinate | 6.3 g | COC1=C(C(=O)OC)C=CC=N1 | C8H9NO3
reactant | water | 6.3 ml | O | H2O
reactant | sodium hydroxide | 6.3 ml | [OH-].[Na+]
reactant | water | 18.9 ml | O | H2O
solvent | THF | 126 ml | C1CCOC1 | C4H8O
solvent | THF | 63 ml | C1CCOC1 | C4H8O
product | (2-methoxy-3-pyridinyl)methanol | 5.0 g | COC1=NC=CC=C1CO | C7H9NO2
